* AD103 capstone - the current mirror
*
* Part 1  a 1:1 mirror. Vout is swept, so you can see exactly where the copy
*         stops being a copy: the output transistor leaves saturation.
* Part 2  what W buys you. Three output devices, W = 1, 2 and 4 times the
*         reference, all sharing one gate voltage.
* Part 3  the error that is nobody's fault: two identical devices at two
*         different drain voltages carry two different currents, because ro
*         is finite. This is the whole reason cascodes exist.
* Part 4  the fix for part 2. One W = 10 device and two W = 5 devices in
*         parallel are supposed to be the same thing. They are not, and the
*         parallel pair is the one that keeps its ratio.
*
* Reference current is set by an ideal 50 uA source, so the only thing this
* deck is measuring is the transistors.

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* --- part 1 and 3: 1:1 mirror, W = 5 L = 1 both sides -----------------
Iref  vdd ng             50u
XMref ng  ng  0 0 sky130_fd_pr__nfet_01v8 L=1 W=5
XMout o1  ng  0 0 sky130_fd_pr__nfet_01v8 L=1 W=5
Vdd   vdd 0              1.8
Vo1   o1  0              1.8

* --- part 2: same gate voltage, three output widths -------------------
XMw1 o2 ng 0 0 sky130_fd_pr__nfet_01v8 L=1 W=5
XMw2 o3 ng 0 0 sky130_fd_pr__nfet_01v8 L=1 W=10
XMw4 o4 ng 0 0 sky130_fd_pr__nfet_01v8 L=1 W=20
Vo2  o2 0 0.9
Vo3  o3 0 0.9
Vo4  o4 0 0.9

* --- part 4: one W = 10, versus two W = 5 in parallel -----------------
XMu1 o5 ng 0 0 sky130_fd_pr__nfet_01v8 L=1 W=5
XMu2 o5 ng 0 0 sky130_fd_pr__nfet_01v8 L=1 W=5
Vo5  o5 0 0.9

.control
op
echo
echo "--- part 1: the reference branch sets a gate voltage ---"
print v(ng)
print @m.xmref.msky130_fd_pr__nfet_01v8[vdsat]
echo
echo "--- part 2: one gate voltage, three widths, V_out = 0.9 V ---"
print i(Vo2) i(Vo3) i(Vo4)
echo "  and why the ratio is not what you drew:"
print @m.xmw1.msky130_fd_pr__nfet_01v8[vth] @m.xmw2.msky130_fd_pr__nfet_01v8[vth]
print @m.xmw1.msky130_fd_pr__nfet_01v8[gm]  @m.xmw2.msky130_fd_pr__nfet_01v8[gm]
echo
echo "--- part 4: one W=10 device vs two W=5 devices in parallel ---"
print i(Vo3) i(Vo5)
echo
echo "--- part 3: the same 1:1 copy at several output voltages ---"
foreach vo 0.1 0.2 0.4 0.6 0.9 1.2 1.8
  alter Vo1 = $vo
  op
  echo "V_out = $vo V"
  print i(Vo1)
end
.endc
.end
