* AD103 capstone - the wiring mistake everybody makes once
*
* This deck is spice/vtc.spice with ONE node name changed. The PMOS source and
* body go to ground instead of to vdd:
*
*     XP out in vdd vdd ...      <- correct
*     XP out in 0   0   ...      <- this file
*
* Nothing about that is a syntax error. ngspice reads it, solves it, and
* writes 1801 rows of a perfectly self-consistent circuit that is not an
* inverter. No warning is printed, because nothing is wrong with the netlist -
* only with the intent behind it.
*
*   make broken
*
* Look at the verdict, then look at the curve. The output does something, and
* what it does is a much better lesson than an error message would have been.

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

Vdd vdd 0 1.8
Vin in  0 0

XN out in 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1
XP out in 0 0 sky130_fd_pr__pfet_01v8 L=0.15 W=1

.control
dc Vin 0 1.8 0.001
let idd = -i(Vdd)
wrdata results/vtc_broken.txt v(out) idd
.endc
.end
