* AD103 capstone - the same inverter, drawn with a long channel
*
* Identical to spice/vtc.spice in every respect except L: both devices are
* 0.5 um long instead of 0.15 um. Nothing else changes - same widths, same
* supply, same sweep.
*
* Run it, then compare the gain at the switching threshold with the
* minimum-length inverter's. The two numbers are not close, and the reason is
* the r_o you measured in Lab 04.
*
*   ngspice -b spice/vtc_long.spice
*
* Columns: v(in) v(out)

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

Vdd vdd 0 1.8
Vin in  0 0

XN out in 0   0   sky130_fd_pr__nfet_01v8 L=0.5 W=1
XP out in vdd vdd sky130_fd_pr__pfet_01v8 L=0.5 W=1

.control
dc Vin 0 1.8 0.001
wrdata results/vtc_long.txt v(out)
.endc
.end
