* AD103 Lab 02 - the I-V curve of one SKY130 diode
*
* One diode, one voltage source, one sweep. The device is
* sky130_fd_pr__diode_pw2nd_05v5: an n+ diffusion sitting in the p-well,
* which is the plainest pn junction SkyWater will sell you.
*
* Runs inside hpretl/iic-osic-tools:2026.08:   ngspice -b spice/diode_iv.spice
*
* UNITS, and this is the whole ballgame:
*   area  is in SQUARE MICRONS.  area=1  is a 1 um x 1 um junction.
*   perim is in MICRONS.         perim=4 is the 4 um of edge around it.
* The parameter is spelled "perim". If you write "pj=4" instead, ngspice
* accepts the line without a word of complaint and you inherit the default
* perimeter of 1e6 um - a diode one metre around. See spice/diode_area.spice,
* which runs that exact line next to the correct one and prints both currents.

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* --- the device under test ---------------------------------------------------
* First port is the ANODE, second port is the CATHODE.
Vd anode 0 dc 0
XD1 anode 0 sky130_fd_pr__diode_pw2nd_05v5 area=1 perim=4

* --- the sweep ---------------------------------------------------------------
* -1 V (hard reverse) to +0.9 V (hard forward) in 1 mV steps: 1901 points.
.dc Vd -1 0.9 0.001

.control
run
* current out of the source's + terminal is -i(Vd); that is the forward
* current through the diode.
let id = -i(Vd)
wrdata results/diode_iv.txt id
.endc
.end
