* AD103 Lab 02 - what is the flat line on the reverse side?
*
* On the log plot the reverse current looks like a floor at about 1 pA that
* does not care what voltage you apply. That floor is not the diode. Every
* SPICE puts a conductance called GMIN across every junction so the matrix
* stays solvable; ngspice's default is 1e-12 S, which is 1 pA per volt.
*
* This deck measures the same three points twice, once with the default GMIN
* and once with GMIN a thousand times smaller.
*
*   ngspice -b spice/reverse_floor.spice

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

Vr1 rev1 0 dc -1.0
XR1 rev1 0 sky130_fd_pr__diode_pw2nd_05v5 area=1 perim=4
Vr2 rev2 0 dc -0.5
XR2 rev2 0 sky130_fd_pr__diode_pw2nd_05v5 area=1 perim=4
Vf1 fwd1 0 dc 0.1
XF1 fwd1 0 sky130_fd_pr__diode_pw2nd_05v5 area=1 perim=4

.control
op
* same sign convention as the sweep: diode current is -i(source)
let i_m1v0 = -i(Vr1)
let i_m0v5 = -i(Vr2)
let i_p0v1 = -i(Vf1)
echo "--- default GMIN = 1e-12 S (amps; negative = current flowing backwards) ---"
echo "    at -1.000 V, at -0.500 V, at +0.100 V"
print i_m1v0 i_m0v5 i_p0v1
option gmin=1e-15
op
let j_m1v0 = -i(Vr1)
let j_m0v5 = -i(Vr2)
let j_p0v1 = -i(Vf1)
echo "--- GMIN = 1e-15 S: the same diode, a thousand times less simulator ---"
echo "    at -1.000 V, at -0.500 V, at +0.100 V"
print j_m1v0 j_m0v5 j_p0v1
.endc
.end
