* AD103 Lab 02 - the additivity test
*
* Superposition, stated for a one-port: drive it with input A, note the
* response. Drive it with input B, note the response. Drive it with A+B.
* If the part is linear, the third answer is the first two added together.
*
* Six one-ports below: a 100 kohm resistor and a 1 um^2 diode, each driven
* three times at 0.35 V, 0.35 V, and 0.70 V. Nothing is measured with an
* instrument; every current is Ohm's law or the diode equation, solved by
* ngspice at one operating point.
*
*   ngspice -b spice/straight_line.spice

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* --- linear one-port: a 100 kohm resistor ------------------------------------
Vra ra 0 dc 0.35
Rra ra 0 100k
Vrb rb 0 dc 0.35
Rrb rb 0 100k
Vrs rs 0 dc 0.70
Rrs rs 0 100k

* --- nonlinear one-port: a 1 um^2 diode --------------------------------------
Vda da 0 dc 0.35
XDa da 0 sky130_fd_pr__diode_pw2nd_05v5 area=1 perim=4
Vdb db 0 dc 0.35
XDb db 0 sky130_fd_pr__diode_pw2nd_05v5 area=1 perim=4
Vds ds 0 dc 0.70
XDs ds 0 sky130_fd_pr__diode_pw2nd_05v5 area=1 perim=4

.control
op
let i_r_a   = -i(Vra)
let i_r_b   = -i(Vrb)
let i_r_sum = i_r_a + i_r_b
let i_r_ab  = -i(Vrs)
let i_d_a   = -i(Vda)
let i_d_b   = -i(Vdb)
let i_d_sum = i_d_a + i_d_b
let i_d_ab  = -i(Vds)
echo "--- 100 kohm resistor (amps) ---"
echo "    A alone, B alone, then A+B predicted by superposition, then measured"
print i_r_a i_r_b i_r_sum i_r_ab
echo "--- 1 um^2 diode (amps) ---"
echo "    A alone, B alone, then A+B predicted by superposition, then measured"
print i_d_a i_d_b i_d_sum i_d_ab
.endc
.end
