* AD103 Lab 00 - one NMOS at one operating point
*
* The same circuit as xschem/nmos_probe.sch, written by hand as a plain SPICE
* deck so it runs with no GUI and no schematic. Every testbench in this course
* has these same parts: models, devices, sources, an analysis, an end.

* --- models -----------------------------------------------------------------
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* --- devices ----------------------------------------------------------------
* W and L are PLAIN MICRON NUMBERS. W=1 means one micrometre. Never W=1u.
XM1 d g 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1

* --- sources ----------------------------------------------------------------
Vgs g 0 1.8
Vds d 0 1.8

* --- analysis ---------------------------------------------------------------
.control
op
print i(Vds)
.endc
.end
