* AD103 Lab 03, extension 2 - the same measurement on a pfet_01v8
*
* A PMOS conducts when its gate is BELOW its source, and its source is the most
* positive terminal, so it is wired to the supply rather than to ground. Every
* voltage in this deck is measured relative to that supply, which is why the
* two sources carry -1.8 V.
*
* The body goes to the supply too. On an NMOS the body goes to the lowest
* voltage in the circuit; on a PMOS it goes to the highest. Get this backwards
* and you forward-bias a junction that is meant to stay off.

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

XM1 d g vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=5

Vdd vdd 0   1.8
Vgs g   vdd -1.8
Vds d   vdd -1.8

.control
op
print i(Vds)
print @m.xm1.msky130_fd_pr__pfet_01v8[vth]
print @m.xm1.msky130_fd_pr__pfet_01v8[vdsat]
print @m.xm1.msky130_fd_pr__pfet_01v8[gm]
print @m.xm1.msky130_fd_pr__pfet_01v8[gds]
.endc
.end
